US07456200B2
3-Chloro-N-hydroxy-benzamidine 4.52 g, 26.5 mmol) was heated with succinic anhydride (2.65 mg, 26.5 mmol) in DMF (5 ml) at 150° C. for an h. The reaction mixture was cooled down and diluted with ethyl acetate. The organic solution was washed with water and brine, concentrated by vacuum. The residue was triturated with 20% ethyl acetate in hexanes to give 4.0 g (60%) of 3-[3-(3-chloro-phenyl)-[1,2,4]oxadiazol-5-yl]-propionic acid as white solid. ). 1H-NMR(CDCl3) d(ppm): 8.08 (s, 1H), 7.96 (d, 1H), 7.49 (d, 1H), 7.42 (t, 1H), 3.28 (t, 2H) and 3.04 (t, 2H). Step 2: 3-[3-(3-Chloro-phenyl)-[1,2,4]oxadiazol-5-yl]-propionic acid hydrazide: This acid was reacted with iodoethane (1.6 g, 10.5 mmol) and K2CO3 (1.46 10.5 mmol) in DMF (5 ml) for 5 min to form 3-[3-(3-chloro-phenyl)-[1,2,4]oxadiazol-5-yl]-propionic acid ethyl ester. The ethyl ester was then treated with 37% hydrazine (2 ml) in ethanol (5 ml) at 80° C. for 2 h to give 595 mg (65% in 3 steps) of 3-[3-(3-chloro-phenyl)-[1,2,4]oxadiazol-5-yl]-propionic acid hydrazide as off-white solid 1H-NMR(CDCl3) d(ppm): 8.07 (s, 1H), 7.96 (d, 1H), 7.49 (d, 1H), 7.43 (t, 1H), 7.00 (w, 1H), 3.95 (w, 2H), 3.34 (t, 2H) and 2.79 (t, 2H).

reactant | 3-Chloro-N-hydroxy-benzamidine | 26.5 mmol, 4.52 g | ClC=1C=C(C(=N)NO)C=CC1 | C7H7ClN2O
reactant | succinic anhydride | 26.5 mmol, 2.65 mg | C1(CCC(=O)O1)=O | C4H4O3
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[3-(3-chloro-phenyl)-[1,2,4]oxadiazol-5-yl]-propionic acid | 4.0 g, 60% | ClC=1C=C(C=CC1)C1=NOC(=N1)CCC(=O)O | C11H9ClN2O3
